US06939885B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(2-methyl-pyridine-4-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 123 mg of (2-Amino-5-chloro-phenyl)-(2-methyl-pyridin-4-yl)-methanone and 116 mg of 4-tert-Butyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.26 (s, 9H), 2.63 (s, 3H) 7.29 (d, 1H, J=2.8 Hz), 7.45-7.55 (m, 3H), 7.67 (m, 2H), 7.83 (m, 2H), 8.03 (s, 1H), 8.81 (d, 1H, J=5.6 Hz), 10.10 (s, 1H). MS: m/z 443.9 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-(2-methyl-pyridin-4-yl)-methanone | 123 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC(=NC=C1)C | C13H11ClN2O
reactant | 4-tert-Butyl-benzenesulfonyl chloride | 116 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-[4-chloro-2-(2-methyl-pyridine-4-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=CC(=NC=C1)C | C23H23ClN2O3S
